US08440705B2
Preparation of 4-[3-(1H-Tetrazol-5-yl)-phenyl]-3,4-dihydro-1H-benzo[h]quinolin-2-one
A mixture of 3-(2-Oxo-1,2,3,4-tetrahydro-benzo[h]quinolin-4-yl)-benzonitrile (0.50 g, 1.68 mmol), sodium azide (0.13 g, 2.0 mmol) and ammonium chloride (0.11 g, 2.01 mmol) in dimethylformamide (3.5 ml) was heated with stirring at 130° C. for 18 hr. The solvent was removed in vacuo and water was added. The solution was acidified with dilute hydrochloric acid to afford a precipitate which was separated by filtration. Crystallization from methanol afforded the title compound (0.23 g, 0.67 mmol).

reactant | 3-(2-Oxo-1,2,3,4-tetrahydro-benzo[h]quinolin-4-yl)-benzonitrile | 1.68 mmol, 0.50 g | O=C1NC2=C3C(=CC=C2C(C1)C=1C=C(C#N)C=CC1)C=CC=C3 | C20H14N2O
reactant | sodium azide | 2.0 mmol, 0.13 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2.01 mmol, 0.11 g | [Cl-].[NH4+]
solvent | dimethylformamide | 3.5 ml | CN(C=O)C | C3H7NO
product | 4-[3-(1H-Tetrazol-5-yl)-phenyl]-3,4-dihydro-1H-benzo[h]quinolin-2-one | 0.67 mmol, 0.23 g | N1N=NN=C1C=1C=C(C=CC1)C1CC(NC2=C3C(=CC=C12)C=CC=C3)=O | C20H15N5O
